US04402960
6.25 g of 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole is dissolved in 150 ml of absolute dimethylformamide and combined with 0.60 g of sodium hydride (80% in oil). After the evolution of hydrogen has ceased, the solution is cooled to 0°, combined with a pinch of powdered copper, and then a diazonium salt solution, cooled to 0° and prepared from 3.26 g of 4-trifluoromethylaniline (99%), 1.38 g of sodium nitrite, as well as 10 ml of 6 N hydrochloric acid, is added dropwise to the reaction mixture. The latter is agitated for 30 minutes at 0° and then allowed to warm up to room temperature. The solution is then concentrated under vacuum, the residue is distributed between water and ethyl acetate; the organic solution is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is chromatographed on 500 g of aluminum oxide, neutral, activity stage II, with hexane/ethyl acetate 3:2 as the eluting agent. Elution yields 3.39 g of 4,5-bis(4-methoxyphenyl)-2-(4-trifluoromethylphenylthio)imidazole, mp 179°-181°.

reactant | 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole | 6.25 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
reactant | sodium hydride | 0.60 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-trifluoromethylaniline | 3.26 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | sodium nitrite | 1.38 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 6 N, 10 ml | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | copper | [Cu] | Cu
product | 4,5-bis(4-methoxyphenyl)-2-(4-trifluoromethylphenylthio)imidazole | 3.39 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=CC=C(C=C1)C(F)(F)F | C24H19F3N2O2S
